US06514985B1
4-Nitrotetrazolo [1,5-a][1,8]naphthyridin-5-ol
Nitric acid (1.33 mL of 16M) was added to a suspension of tetrazolo[1,5-a][1,8]naphthyridin-5-ol (4 g, 21 mmole) in acetic acid (50 mL). The reaction mixture was heated on a steam bath for 5 minutes then cooled to ambient temperature. Sodium acetate (0.3 eq) in a small amount of water was added to the reaction mixture. The resulting solid was isolated by filtration and dried to provide 5 g of 4-nitrotetrazolo[1,5-a][1,8]naphthryidin-5-ol as a solid, m.p. 278° C. (decomposition). Analysis: Calculated for C8H4N6O3+1.1 H2O: %C, 38.12; %H, 2.48; %N, 33.35; Found: %C, 37.99; %H, 2.41; %N, 32.82.

reactant | Nitric acid | 16M, 1.33 mL | [N+](=O)(O)[O-] | HNO3
reactant | tetrazolo[1,5-a][1,8]naphthyridin-5-ol | 21 mmole, 4 g | N1=NN=C2N1C1=NC=CC=C1C(=C2)O | C8H5N5O
reactant | Sodium acetate | 0.3 eq | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-Nitrotetrazolo [1,5-a][1,8]naphthyridin-5-ol | [N+](=O)([O-])C=1C=2N(C3=NC=CC=C3C1O)N=NN2 | C8H4N6O3
